US09447083B2
2-Bromo-4,6-dimethylphenol (500 mg, 2.49 mmol), 2-thiophenyl boronic acid (88 mg, 2.99 mmol), sodium carbonate (791 mg, 7.47 mmol) and Pd2(dppf)2Cl2 (406 mg, 0.49 mmol) were dissolved in dimethoxyethane/water 6 mL/3 mL, followed by stirring in microwave at 120° C. for 20 minutes. After the completion of the reaction, the reaction mixture was filtered using Celite. The filtrate was added with water, and extracted with ethyl acetate. The obtained organic layer was dried over magnesium sulfate, and purified by column chromatography (ethyl acetate:hexane=1:3) to obtain 2,4-dimethyl-6-(thiophene-2-yl)phenol (231 mg, 45%).

reactant | 2-Bromo-4,6-dimethylphenol | 2.49 mmol, 500 mg | BrC1=C(C(=CC(=C1)C)C)O | C8H9BrO
reactant | 2-thiophenyl boronic acid | 2.99 mmol, 88 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 7.47 mmol, 791 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane water | 6 mL | C(OC)COC.O
product | 2,4-dimethyl-6-(thiophene-2-yl)phenol | 231 mg, 45% | CC1=C(C(=CC(=C1)C)C=1SC=CC1)O | C12H12OS
